US07026335B2
Preparation of 3-[3-(4-chloro-phenyl)-propionyl]-4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one (32):
To a cooled (−78° C.) solution of 4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one, 31, (600 mg, 3.39 mmol) in anhydrous tetrahydrofuran (20 mL) is added n-butyl lithium (2.5 mL, 1.6M solution in hexanes, 4.07 mmol). The resulting solution is stirred at −78° C. for ninety minutes and then 3-(4-chloro-phenyl)-propionyl chloride (894 mg, 4.41 mmol) is slowly added. The solution is warmed to room temperature for thirty minutes and then the solvents removed under reduced pressure. The crude product is purified over silica (20:80 ethyl acetate:hexanes, Rf˜0.3) to afford 1.07 g (92% yield) of the desired compound as a colorless solid. 1H NMR (CDCl3 300 MHz) δ 0.91 (d, J=6.6 Hz, 3H), 3.01 (t, J=7.8 Hz, 2H), 3.18–3.40 (m, 2H), 4.77 (m, 1H), 5.67 (d, J=7.2 Hz, 1H), 7.18–7.48 (m, 9H). MS (ESI) m/z 344 (M+H+)

reactant | 4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | n-butyl lithium | 4.07 mmol, 1.6M, 2.5 mL | C(CCC)[Li]
reactant | 3-(4-chloro-phenyl)-propionyl chloride | 4.41 mmol, 894 mg | ClC1=CC=C(C=C1)CCC(=O)Cl | C9H8Cl2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 3-[3-(4-chloro-phenyl)-propionyl]-4-(R)-methyl-5-(S)-phenyl-oxazolidin-2-one | 1.07 g, 92% yield | ClC1=CC=C(C=C1)CCC(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O | C19H18ClNO3
